US08097594B2
Step-1: To the stirred solution of 2-chloroacetamidoxime (1.0 g, 9.2 mmol, prepared as per the procedure given in PCT/US02/22897) in toluene (15 ml) was added nicotinyl chloride (1.37 g, 9.67 mmol) and heated at 110° C. for 4 hr. The reaction mixture was diluted with ethyl acetate (50 ml) and washed with aqueous saturated sodium bicarbonate solution (2×25). Organic layer was evaporated under vacuum to yield the crude product. The crude product was purified using silica gel column chromatography (15% Acetone-Hexane) to give 2-(3-chloromethyl-[1,2,4]-oxadiazole-5-yl)-pyridine in 55% (0.550 g) yield. MS: m/z: 196.7 (M+1).

reactant | 2-chloroacetamidoxime | ClCC(N)=NO | C2H5ClN2O
reactant | nicotinyl chloride | 9.67 mmol, 1.37 g | C(C1=CN=CC=C1)Cl | C6H6ClN
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3-chloromethyl-[1,2,4]-oxadiazole-5-yl)-pyridine | ClCC1=NOC(=N1)C1=NC=CC=C1 | C8H6ClN3O
